### PR TITLE
[Merged by Bors] - feat(Analysis/EGauge): new file

### PR DESCRIPTION
**Pull request by urkud**
Define `egauge`, needed to define Fréchet derivative
for functions between topological vector spaces.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/EGauge.lean [hunk 1]
```diff
@@ -0,0 +1,195 @@
...
+section Module
+
+variable {𝕜 : Type*} [NormedDivisionRing 𝕜] {α E : Type*} [AddCommGroup E] [Module 𝕜 E]
+    {c : 𝕜} {s t : Set E} {x y : E} {r : ℝ≥0∞}
+
+lemma egauge_le_of_smul_mem_of_ne (h : c • x ∈ s) (hc : c ≠ 0) : egauge 𝕜 s x ≤ ‖c‖₊⁻¹ := by
+  rw [← nnnorm_inv]
+  exact egauge_le_of_mem_smul <| (mem_inv_smul_set_iff₀ hc _ _).2 h
+
+lemma egauge_le_of_smul_mem (h : c • x ∈ s) : egauge 𝕜 s x ≤ (↑‖c‖₊)⁻¹ := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/EGauge.lean:84]: maybe
```suggestion
/-- When the inversion happens in `ℝ≥0∞`, there is no degenerate case. -/
lemma egauge_le_of_smul_mem (h : c • x ∈ s) : egauge 𝕜 s x ≤ (↑‖c‖₊)⁻¹ := by
```
or adding an explicit cast on `egauge_le_of_smul_mem_of_ne` to make the difference more obvious.

Comment (urkud) [reply Mathlib/Analysis/Convex/EGauge.lean]: I added both comments and explicit casts.

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 2]
```diff
@@ -1918,6 +1918,15 @@ theorem ofReal_le_ennnorm (r : ℝ) : ENNReal.ofReal r ≤ ‖r‖₊ := by
 
 end Real
 
+namespace NNReal
+
+instance : NNNorm ℝ≥0 where
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/Basic.lean:1923]: Does it make sense to add an instance for `NNRat` in this PR too?

File: Mathlib/Analysis/Convex/EGauge.lean [hunk 3]
```diff
@@ -0,0 +1,202 @@
...
+/-- The Minkowski functional for vector spaces over normed fields.
+Given a set `s` in a vector space over a normed field `𝕜`,
+`egauge s` is the functional which sends `x : E`
+to the infimum of `‖c‖₊` over `c` such that `x` belongs to `s` scaled by `c`.
+
+The definition only requires `𝕜` to have a `NNNorm` instance
+and `(· • ·) : 𝕜 → E → E` to be defined.
+This way the definition applies, e.g., to `𝕜 = ℝ≥0`.
+For `𝕜 = ℝ≥0`, the function is equal (up to conversion to `ℝ`)
+to the usual Minkowski functional defined in `gauge`. -/
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/EGauge.lean:38]: Is this result scheduled for a future PR? If it's simple, perhaps it belongs in this one.

File: Mathlib/Analysis/Convex/EGauge.lean [hunk 4]
```diff
@@ -0,0 +1,202 @@
...
+Copyright (c) 2024 Yury Kudryashov. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yury Kudryashov
+-/
+import Mathlib.Analysis.Seminorm
+
+/-!
+# The Minkowski functional, normed field version
+
+In tihs file we define `(egauge 𝕜 s ·)`
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/EGauge.lean:11]:
```suggestion
In this file we define `(egauge 𝕜 s ·)`
```

File: Mathlib/Analysis/Convex/EGauge.lean [hunk 5]
```diff
@@ -0,0 +1,202 @@
...
+to be the Minkowski functional (gauge) of the set `s`
+in a topological vector space `E` over a normed field `𝕜`,
+as a function `E → ℝ≥0∞`.
+
+It is defined as the infimum of the norms of `c : 𝕜` such that `x ∈ c • s`.
+In particular, for `𝕜 = ℝ≥0` this definition gives an `ℝ≥0∞`-valued version of `gauge`
+defined in `Mathlib/Analysis/Convex/Gauge.lean`.
```
Comment (eric-wieser) [inline Mathlib/Analysis/Convex/EGauge.lean:18]: Could you elaborate here on why other choices of `𝕜` are interesting?

**Review by eric-wieser — APPROVED** [review]
bors d+

I'm a little unclear on the motivation, but the definition seems reasonable enough by itself.

File: Mathlib/Analysis/Convex/EGauge.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Analysis/Convex/EGauge.lean:38]: Which `import` should I add? Or move definitions to a new `Defs.lean` file so that the result can go to either file?

File: Mathlib/Analysis/Convex/EGauge.lean [hunk 6]
```diff
@@ -0,0 +1,202 @@
...
+# The Minkowski functional, normed field version
+
+In this file we define `(egauge 𝕜 s ·)`
+to be the Minkowski functional (gauge) of the set `s`
+in a topological vector space `E` over a normed field `𝕜`,
+as a function `E → ℝ≥0∞`.
+
+It is defined as the infimum of the norms of `c : 𝕜` such that `x ∈ c • s`.
+In particular, for `𝕜 = ℝ≥0` this definition gives an `ℝ≥0∞`-valued version of `gauge`
+defined in `Mathlib/Analysis/Convex/Gauge.lean`.
```
Comment (urkud) [inline Mathlib/Analysis/Convex/EGauge.lean:18]:
```suggestion
defined in `Mathlib/Analysis/Convex/Gauge.lean`.

This definition can be used to generalize the notion of Fréchet derivative
to maps between topological vector spaces without norms.
```

File: Mathlib/Analysis/Convex/EGauge.lean [hunk 7]
```diff
@@ -0,0 +1,195 @@
...
+  · simp
+  · exact (egauge_le_of_smul_mem_of_ne h hc).trans ENNReal.coe_inv_le
+
+lemma mem_of_egauge_lt_one (hs : Balanced 𝕜 s) (hx : egauge 𝕜 s x < 1) : x ∈ s :=
+  let ⟨c, hxc, hc⟩ := egauge_lt_iff.1 hx
+  hs c (mod_cast hc.le) hxc
+
+variable (𝕜)
+
+lemma egauge_zero_right (hs : s.Nonempty) : egauge 𝕜 s 0 = 0 := by
```
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Analysis/Convex/EGauge.lean:105]:
```suggestion
@[simp]
lemma egauge_zero_right (hs : s.Nonempty) : egauge 𝕜 s 0 = 0 := by
```

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Analysis/Normed/Group/Basic.lean:1923]: Do you have some applications in mind?

File: Mathlib/Analysis/Convex/EGauge.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Analysis/Convex/EGauge.lean:41]: I'm going to merge this, then open a new PR over the week-end moving defs to a new file and proving this theorem.

**Comment by urkud** [comment]
bors merge
